US07851484B2
5-Chloro-3-fluoro-2-hydroxypyridine.
To a solution of NaOH (101 g, 2.5 mol) in water (500 mL) was added 5-chloro-2,3-difluoropyridine (101 g, 0.68 mol) as a liquid, and the resulting mixture was heated to reflux overnight. After cooling to room temperature, the mixture was filtered through a pad of celite and the pH was adjusted to 1 by the addition of concentrated HCl. The resulting solid was removed by filtration and dissolved in ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo. The title compound was obtained as a white solid (78 g, 78%) and was used without additional purification. The product was characterized by 1H NMR.

reactant | NaOH | 2.5 mol, 101 g | [OH-].[Na+]
reactant | 5-chloro-2,3-difluoropyridine | 0.68 mol, 101 g | ClC=1C=C(C(=NC1)F)F | C5H2ClF2N
solvent | water | 500 mL | O | H2O
product | 5-Chloro-3-fluoro-2-hydroxypyridine | ClC=1C=C(C(=NC1)O)F | C5H3ClFNO
